Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / scallops only
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion/AF

 
Major Surgical or Invasive Procedure:
___
Mitral Valve Repair (28mm ___
Maze, Left Atrial Appendage Ligation

 
History of Present Illness:
___ year old male hospitalized for
rapid A Fib earlier this year with dyspnea on exertion. He was
cardioverted to SR and echo showed severe mitral regurgitation.
Of note, he has history of mitral valve prolpase x ___ years. 
Presents today for pre-op cath, which reveals normal coronaries.
 
Past Medical History:
Mitral Regurgitation
Atrial Fibrillation
PMH:
Hyperlipidemia
Hypertension
Diabetes mellitus type II
Osteoarthritis
Abdominal aortic aneurysm (2.4-3.2cm)
Prostate Cancer (watchful waiting)
Bilateral knee patellofemoral syndrome
Past Surgical History:
Lap cholecystectomy
Bilateral hernia repair

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Pulse: 52  Resp: 18 O2 sat: 98%
B/P  Right: 133/69   Left:
Height: 5'8"    Weight: 170 lbs

General: Well-developed male in no acute distress
Skin: Warm[X] Dry [X] intact [X]
HEENT: NCAT[X] PERRLA [X] EOMI [X]
Neck: Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X]
Heart: RRR [X] Irregular [] Murmur ___ systolic
Abdomen: Soft [X] non-distended [X] non-tender [X] bowel sounds 
+
[X]
Extremities: Warm [X], well-perfused [X] 
Edema none
Varicosities: None [X]
Neuro: Grossly intact [X]

Pulses:
Femoral      Right: 2+  Left: 2+
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+

Carotid Bruit     Right:    Left:
No bruits 

 
Pertinent Results:
___, Intra-op TEE
Conclusions  
PRE-BYPASS: The left atrium is markedly dilated. No spontaneous 
echo contrast is seen in the body of the left atrium or left 
atrial appendage. No spontaneous echo contrast or thrombus is 
seen in the body of the left atrium or left atrial appendage. No 
atrial septal defect is seen by 2D or color Doppler. Overall 
left ventricular systolic function is mildly depressed (LVEF= 
40-50 %). Right ventricular chamber size is normal. with 
borderline normal free wall function. There are simple atheroma 
in the ascending aorta. The descending thoracic aorta is mildly 
dilated. There are simple atheroma in the descending thoracic 
aorta. There are three aortic valve leaflets. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
leaflets are moderately thickened. The mitral valve leaflets are 
myxomatous. There is partial posterior mitral leaflet flail of 
the P2 scallop. The mitral valve leaflets do not fully coapt. 
There is moderate thickening of the mitral valve chordae. An 
eccentric,anteriorly directed directed jet of Severe (4+) mitral 
regurgitation is seen. Due to the eccentric nature of the 
regurgitant jet, its severity may be significantly 
underestimated (Coanda effect). There is no pericardial 
effusion.

POST CPB:
1. Unchanged left and right ventricular systolci function ((With 
patient on epinephrine infusion)

2. An annuloplasty ___ (Saddle Shaped) is present in the 
mitralposition. Well seated and stable. Normal anterior and 
posterior mitral leaflet motion.

3. MVA by PHT method = 1.45 cm2. PG =11 mm Hg. MG= 4 mm Hg

4. Trace AI and intact aorta

5. No other change.   
  Electronically signed by ___, MD, Interpreting 
physician ___ ___ 13:50  

 
Brief Hospital Course:
The patient was admitted following cath for IV heparin.  He was 
brought to the Operating Room on ___ where the patient 
underwent Mitral Valve Repair (28mm ___, Maze and 
Left Atrial Appendage Ligation with Dr. ___.   Overall the 
patient tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support.  Heart rate was in the ___ initially, and 
beta blocker was held.  The patient was gently diuresed toward 
the preoperative weight.  The patient was transferred to the 
telemetry floor for further recovery.  Heart rate would increase 
to the ___ and Sotalol was resumed.  Chest tubes and pacing 
wires were discontinued without complication.  Lopressor was 
started after he demonstrated stable vital signs on Sotalol for 
24 hours.  Metformin was resumed and blood glucose remained well 
controlled.  Coumadin was resumed, and Dr. ___ will continue 
to follow this after discharge.  The patient was evaluated by 
the physical therapy service for assistance with strength and 
mobility.  By the time of discharge on POD 4 the patient was 
ambulating freely, the wound was healing and pain was controlled 
with oral analgesics.  The patient was discharged home with ___ 
in good condition with appropriate follow up instructions.
 
Medications on Admission:
Coumadin 3mg daily
Lipitor 40mg daily
Avodart 0.5mg daily
Losartan 50mg daily
Metformin 500mg twice daily
Metoprolol succinate 50mg daily
Sotalol 80mg daily
Flomax 0.4mg daily
Aspirin 81mg daily

 
Discharge Medications:
1. Outpatient Lab Work
Labs: ___
Coumadin for Atrial Fibrillation
Goal INR ___
First draw day after discharge ___
Then please do INR checks ___, and ___ for 2 
weeks then decrease as directed by Dr. ___ to phone ___ 

2. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) for 1 months.
Disp:*60 Tablet(s)* Refills:*0*
3. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
4. atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. dutasteride 0.5 mg Capsule Sig: One (1) Capsule PO daily ().  

6. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
7. sotalol 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. losartan 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
9. warfarin 1 mg Tablet Sig: Three (3) Tablet PO once a day.
Disp:*90 Tablet(s)* Refills:*2*
10. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
11. metformin 500 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
12. furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day 
for 5 days.  
13. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*30 Tablet(s)* Refills:*2*
14. potassium chloride 10 mEq Tablet Extended Release Sig: Two 
(2) Tablet Extended Release PO once a day for 5 days.
Disp:*10 Tablet Extended Release(s)* Refills:*0*
15. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for pain.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Mitral Regurgitation
Atrial Fibrillation
PMH:
Hyperlipidemia
Hypertension
Diabetes mellitus type II
Osteoarthritis
Abdominal aortic aneurysm (2.4-3.2cm)
Prostate Cancer (watchful waiting)
Bilateral knee patellofemoral syndrome
Past Surgical History:
Lap cholecystectomy
Bilateral hernia repair

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Trace ___ edema

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___